US07566715B2
1H NMR (CDCl3) δ 7.00-7.40 (m, 3H), 7.60-7.90 (m, 3H), 8.70 (bs, 1H). 4-Chloro-N-(3-chlorophenyl)-3-nitrobenzenesulfonamide (0.45 g, 1.3 mmol), N-methylpiperazine (0.191 mL, 1.73 mmol) and K2CO3 (359 mg, 2.6 mmol) in CH3CN (2.5 mL) as the filtrated was concentrated to give a residue which was purified by column (SiO2, CHCl3:MeOH: NH3 9:1:0.4%) to give 420 mg of N-(3-chlorophenyl)-4-(4-methyl-1-piperazinyl)-3-nitrobenzenesulfonamide (85%). Purity >95% according to HPLC analysis. The compound was dissolved in THF (1 mL) and ethanol (5 mL) was added. The solution was treated with Raney-Ni (50 mg) and hydrazine monohydrate (0.05 mL) overnight. The Raney-Ni was filtered (celite pad), the volatiles were evaporated and the residue was purified by column chromatography (SiO2, CHCl3:MeOH: NH3 9:1:0.4%). The product was isolated as hydrochloride salt by treatment with HCl gas in diethyl ether to yield 170 mg of final product (32%).

reactant | 4-Chloro-N-(3-chlorophenyl)-3-nitrobenzenesulfonamide | 1.3 mmol, 0.45 g | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)Cl)[N+](=O)[O-] | C12H8Cl2N2O4S
reactant | N-methylpiperazine | 1.73 mmol, 0.191 mL | CN1CCNCC1 | C5H12N2
reactant | K2CO3 | 2.6 mmol, 359 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
product | N-(3-chlorophenyl)-4-(4-methyl-1-piperazinyl)-3-nitrobenzenesulfonamide | 420 mg, 85% | ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C)[N+](=O)[O-] | C17H19ClN4O4S
